US07517875B2
After adding 1-methyl-1H-indole-2-carboaldehyde (0.26 mmol) and sodium triacetoxyborohydride (0.26 mmol) to a solution of (1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine (20.0 mg, 0.09 mmol) in dimethylformamide-acetic acid (10:1) (1.0 ml), the mixture was stirred at room temperature overnight. Methanol (1.0 ml) was added to the reaction mixture to suspend the reaction, and after stirring for 1 hour, the solution was passed through SCX (Bond Elute SCX500MG: cationic ion-exchange resin, Varian). The SCX was washed with methanol and then with a mixed solution of chloroform/methanol (1/1), and elution was performed with a 2N ammonia-methanol solution. The solvent was distilled off under reduced pressure to obtain (1H-benzimidazol-2-yl)-[1-(1-methyl-1H-indol-2-ylmethyl)-piperidin-4-ylmethyl]-amine. The compound was identified by LC-MS.

reactant | 1-methyl-1H-indole-2-carboaldehyde | 0.26 mmol | CN1C(=CC2=CC=CC=C12)C=O | C10H9NO
reactant | sodium triacetoxyborohydride | 0.26 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine | 0.09 mmol, 20.0 mg | N1C(=NC2=C1C=CC=C2)NCC2CCNCC2 | C13H18N4
reactant | Methanol | 1.0 ml | CO | CH4O
solvent | dimethylformamide acetic acid | 1.0 ml | CN(C=O)C.C(C)(=O)O
product | (1H-benzimidazol-2-yl)-[1-(1-methyl-1H-indol-2-ylmethyl)-piperidin-4-ylmethyl]-amine | N1C(=NC2=C1C=CC=C2)NCC2CCN(CC2)CC=2N(C1=CC=CC=C1C2)C | C23H27N5
